US07846932B2
Synthesis of 2-[1-(2-cyclopropyl-6-chloro-5-methyl-pyrimidin-4-yl)-piperidin-4-yl]-[1,8]naphthyridine
20 ml of dimethylacetamide and 3.36 ml (19.2 mmoles) of diisopropylethylamine are added into a single-necked flask containing 1.5 g (7.39 mmoles) of 2-cyclopropyl-4,6-dichloro-5-methyl-pyrimidine and 1.58 g (7.39 mmoles) of 2-piperidin-4-yl-[1,8]naphthyridine. This mixture is heated at 100° C. overnight. The next day 0.2 equivalent of naphthyridine is added and the reaction mixture is heated for another 6 hours, followed by returning to ambient temperature before concentration to dryness. The residue obtained is taken up in a mixture of water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is separated and the aqueous phase reextracted with ethyl acetate. The collected organic phases are dried over magnesium sulphate then the solvent is evaporated off under reduced pressure (2 kPa). The residue is chromatographed on silica gel eluting with a gradient of heptane-ethyl acetate (50-50) to 100% ethyl acetate. 1.45 g of expected product is obtained.

reactant | diisopropylethylamine | 19.2 mmoles, 3.36 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-cyclopropyl-4,6-dichloro-5-methyl-pyrimidine | 7.39 mmoles, 1.5 g | C1(CC1)C1=NC(=C(C(=N1)Cl)C)Cl | C8H8Cl2N2
reactant | 2-piperidin-4-yl-[1,8]naphthyridine | 7.39 mmoles, 1.58 g | N1CCC(CC1)C1=NC2=NC=CC=C2C=C1 | C13H15N3
reactant | naphthyridine | 0.2 equivalent | N1=CC=CC2=CC=CN=C12 | C8H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-[1-(2-cyclopropyl-6-chloro-5-methyl-pyrimidin-4-yl)-piperidin-4-yl]-[1,8]naphthyridine | 1.45 g | C1(CC1)C1=NC(=C(C(=N1)N1CCC(CC1)C1=NC2=NC=CC=C2C=C1)C)Cl | C21H22ClN5
